US07384934B2
(S)-6,7-Difluoro-10-[3-(2-methoxy-ethyl)-4-methyl-piperazin-1-yl]-2-methyl-4H-3-thia-4,9-diaza-benzo[f]azulene hydrochloride
Dissolve (S)-6,7-difluoro-10-[3-(2-methoxy-ethyl)-piperazin-1-yl]-2-methyl-4H-3-thia-4,9-diaza-benzo[f]azulene (26.1 g, 66.5 mmol) in 1,2-dichloroethane (DCE, 260 mL) with stirring at ambient temperature under nitrogen; cool to 10-15° C. Add aqueous 37% wt. formaldehyde (5.40 g×37%=2.00 g, 66.6 mmol) in one portion. Add powdered sodium triacetoxyborohydride (19.8 g, 93.4 mmol) in a few portions over 10-15 minutes, keeping the temperature below 20° C. Rinse in the residue with DCE (26 mL). Stir the reaction solution at ambient temperature for 1-2 hours. Add aqueous saturated sodium bicarbonate (260 mL) dropwise, and then stir at ambient temperature for 20-30 minutes. Separate the layers, and then extract the aqueous layer with methylene chloride (50 mL). Extract the combined organic layers with water (100 mL) then brine (100 mL). Dry the organic solution over magnesium sulfate with stirring, filter, and then concentrate under reduced pressure to an oily foam residue. Dissolve in methylene chloride and concentrate under reduced pressure to give 26.0 g (96%) of the free base of the title compound as a foam. 1H NMR (400 MHz, DMSO-d6) δ 7.70 (s, 1H), 6.74 (m, 2H), 6.36 (s, 1H), 3.75 (bm, 2H), 3.35 (m, 2H), 3.20 (s, 3H), 2.95 (bt, 1H), 2.75 (m, 2H), 2.30 (s, 3H), 2.22 (s, 3H), 2.15 (bm, 2H), 1.82 (m, 1H), 1.50 (m, 1H). HRMS (ES) exact mass M+H calcd for C20H24F2N4OS 407.1717; found 407.1716.

reactant | (S)-6,7-difluoro-10-[3-(2-methoxy-ethyl)-piperazin-1-yl]-2-methyl-4H-3-thia-4,9-diaza-benzo[f]azulene | 66.5 mmol, 26.1 g | FC=1C(=CC2=C(NC=3SC(=CC3C(=N2)N2C[C@@H](NCC2)CCOC)C)C1)F | C19H22F2N4OS
reactant | formaldehyde | 66.6 mmol, 5.40 g | C=O | CH2O
reactant | sodium triacetoxyborohydride | 93.4 mmol, 19.8 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | 1,2-dichloroethane | 260 mL | ClCCCl | C2H4Cl2
product | (S)-6,7-Difluoro-10-[3-(2-methoxy-ethyl)-4-methyl-piperazin-1-yl]-2-methyl-4H-3-thia-4,9-diaza-benzo[f]azulene hydrochloride | 26.0 g, 96% | Cl.FC=1C(=CC2=C(NC=3SC(=CC3C(=N2)N2C[C@@H](N(CC2)C)CCOC)C)C1)F | InChI=1S/C20H24F2N4OS.ClH/c1-12-8-14-19(26-6-5-25(2)13(11-26)4-7-27-3)23-17-9-15(21)16(22)10-18(17)24-20(14)28-12;/h8-10,13,24H,4-7,11H2,1-3H3;1H/t13-;/m0./s1
